US06184180B2
Synthesis of N-octadecylpyridinium p-toluenesulfonate
In a 100 ml flask equipped with a stirrer, a condenser and a calcium chloride dryer tube were charged 9.3 g of pyridine and 5.0 g of octadecyl p-toluenesulfonate, and the mixture was refluxed for 6 hours. After cooling the reaction mixture to room temperature, precipitated crystals were collected by filtration under reduced pressure. The resulting crystals were washed with acetone to obtain 5.9 g of the title compound. Melting point: 133*.

reactant | octadecyl p-toluenesulfonate | 5.0 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCCCCCCCCCC)C | C25H44O3S
reactant | pyridine | 9.3 g | N1=CC=CC=C1 | C5H5N
product | N-octadecylpyridinium p-toluenesulfonate | 5.9 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(CCCCCCCCCCCCCCCCC)[N+]1=CC=CC=C1 | InChI=1S/C23H42N.C7H8O3S/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-18-21-24-22-19-17-20-23-24;1-6-2-4-7(5-3-6)11(8,9)10/h17,19-20,22-23H,2-16,18,21H2,1H3;2-5H,1H3,(H,8,9,10)/q+1;/p-1
